US07279478B2
Step, 1 methyl 2-bromo-4-methylpentanoate
To a solution of 2-bromo-4-methylpentanoic acid (9.86 mmol, 1.31 g) in CH2Cl2 (100 mL), was added slowly a solution of diazomethane until no bubbles appears. The mixture was stirred at r.t. for 0.25 h. The volatiles were removed under reduced pressure to leave a yellow liquid. The crude methyl ester was used without further purification.

reactant | 2-bromo-4-methylpentanoic acid | 9.86 mmol, 1.31 g | BrC(C(=O)O)CC(C)C | C6H11BrO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-bromo-4-methylpentanoate | BrC(C(=O)OC)CC(C)C | C7H13BrO2
